US07947727B2
N-Ethyl-2-methyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide
Prepared similarly to Example 1 from 2-methylbenzoic acid and 3-(ethylamino)-1,1,1-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-propanol.

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 3-(ethylamino)-1,1,1-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-propanol | C(C)NCC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC(=C1)C)C1=CC=C(C=C1)F | C20H22F4N4O
product | N-Ethyl-2-methyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-6-methyl-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide | C(C)N(C(C1=C(C=CC=C1)C)=O)CC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC(=C1)C)C1=CC=C(C=C1)F | C28H28F4N4O2
